US06169090A
7-Methoxy-2-methoxymethylfuro[2,3-c]pyridine-4-carboxylic acid (3,5-dichloropyridin-4-yl)amide
Starting from 7-methoxy-2-methoxymethylfuro[2,3-c]pyridine-4-carboxylic acid 4-nitrophenyl ester (300 mg) and 4-amino-3,5-dichloropyridine (54 mg). Purification by column chromatography on silica eluting with 1% methanol in dichloromethane gave the title compound (115 mg) as a white solid.

reactant | 7-methoxy-2-methoxymethylfuro[2,3-c]pyridine-4-carboxylic acid 4-nitrophenyl ester | 300 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)C=1C2=C(C(=NC1)OC)OC(=C2)COC | C17H14N2O7
reactant | 4-amino-3,5-dichloropyridine | 54 mg | NC1=C(C=NC=C1Cl)Cl | C5H4Cl2N2
product | 7-Methoxy-2-methoxymethylfuro[2,3-c]pyridine-4-carboxylic acid (3,5-dichloropyridin-4-yl)amide | 115 mg | ClC=1C=NC=C(C1NC(=O)C=1C2=C(C(=NC1)OC)OC(=C2)COC)Cl | C16H13Cl2N3O4
